US09382237B2
Dissolved 0.500 g 2-cyano-3,3-bis(methylthio)acrylamide in 15 mL EtOH and added 172 mg (1.0 eq.) 3,4-dichloroaniline. Stirred reaction at 75° C. until starting amide was absent by HPLC. Once complete (18 hrs), reaction was brought to room temperature and filtered to obtain 2-cyano-3-((3,4-dichlorophenyl)amino)-3-(methylthio)acrylamide as a light yellow powder as product. Product was allowed to dry under vacuum for 1 hr.

reactant | 2-cyano-3,3-bis(methylthio)acrylamide | 0.500 g | C(#N)C(C(=O)N)=C(SC)SC | C6H8N2OS2
reactant | 3,4-dichloroaniline | 172 mg, 1.0 eq. | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2-cyano-3-((3,4-dichlorophenyl)amino)-3-(methylthio)acrylamide | C(#N)C(C(=O)N)=C(SC)NC1=CC(=C(C=C1)Cl)Cl | C11H9Cl2N3OS
